US04588719
4-(3-Chloropropoxy)-1-indanone
1-Bromo-3-chloropropane (17.3 g) is added to a stirred mixture of 4-hydroxyindanone (14.8 g), potassium carbonate (15.3 g) in DMF/water (150 ml/50/ml) and the reaction mixture stirred at RT for about 4 days. The reaction mixture is partitioned between water and methylene chloride and the organic layer is separated, dried, filtered and evaporated, affording a residue which is chromatographed on a silica gel column to yield the desired product as a white solid.

reactant | 1-Bromo-3-chloropropane | 17.3 g | BrCCCCl | C3H6BrCl
reactant | 4-hydroxyindanone | 14.8 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | potassium carbonate | 15.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF water | 150 ml | CN(C)C=O.O
product | 4-(3-Chloropropoxy)-1-indanone | ClCCCOC1=C2CCC(C2=CC=C1)=O | C12H13ClO2
